US07531545B2
Zinc dust (21.4 g, 330 mmol) was carefully added into a solution of 4-{(2-benzyloxy-ethyl)-[4-[(5-nitro-2-phenoxy-pyridin-4-ylmethyl)-amino]-4-(S)-(tetrahydro-pyran-4-yl)-butyryl]-amino}-cis-cyclohexanecarboxylic acid benzyl ester (1.85 g, 2.4 mmol) and NH4Cl (2.6 g, 48 mmol) in MeOH (300 mL). The resulting mixture was refluxed 4 hours. The MeOH was removed before EtOAc (300 mL) was added. The resulting solution washed with aq. NaHCO3 and aq. NaCl. The organic layer was dried with MgSO4, filtered, and evaporated to yield 4-[[4-[(5-amino-2-phenoxy-pyridin-4-ylmethyl)-amino]-4-(S)-(tetrahydro-pyran-4-yl)-butyryl]-(2-benzyloxy-ethyl)-amino]-cis-cyclohexanecarboxylic acid benzyl ester as a light brown oil.

reactant | 4-{(2-benzyloxy-ethyl)-[4-[(5-nitro-2-phenoxy-pyridin-4-ylmethyl)-amino]-4-(S)-(tetrahydro-pyran-4-yl)-butyryl]-amino}-cis-cyclohexanecarboxylic acid benzyl ester | 2.4 mmol, 1.85 g | C(C1=CC=CC=C1)OC(=O)[C@@H]1CC[C@@H](CC1)N(C(CC[C@@H](C1CCOCC1)NCC1=CC(=NC=C1[N+](=O)[O-])OC1=CC=CC=C1)=O)CCOCC1=CC=CC=C1 | C44H52N4O8
reactant | NH4Cl | 48 mmol, 2.6 g | [NH4+].[Cl-]
solvent | MeOH | 300 mL | CO | CH4O
catalyst | Zinc | 330 mmol, 21.4 g | [Zn] | Zn
product | 4-[[4-[(5-amino-2-phenoxy-pyridin-4-ylmethyl)-amino]-4-(S)-(tetrahydro-pyran-4-yl)-butyryl]-(2-benzyloxy-ethyl)-amino]-cis-cyclohexanecarboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)[C@@H]1CC[C@@H](CC1)N(CCOCC1=CC=CC=C1)C(CC[C@@H](C1CCOCC1)NCC1=CC(=NC=C1N)OC1=CC=CC=C1)=O | C44H54N4O6
